US09382188B2
step 2) 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carbohydrazide
A solution of ethyl 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carboxylate (2.04 g) and hydrazine monohydrate (4.82 mL) in ethanol (20 mL) was stirred at 95° C. for 12 days. The reaction mixture was concentrated under reduced pressure, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.43 g) as a white solid.

reactant | ethyl 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carboxylate | 2.04 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C(=O)OCC | C24H23FO5
reactant | hydrazine monohydrate | 4.82 mL | O.NN
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carbohydrazide | 1.43 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C(=O)NN | C22H21FN2O4
